US06472419B1
23.8 g (0.073 mol) of methyl N-(2-chloro-6-methoxyphenylacetyl)-2-amino-2,3-dimethyl-butyrate, dissolved in 150 ml of absolute toluene, are added dropwise to a suspension of 18.06 g (0.16 mol) of potassium tert-butylate in 50 ml of absolute tetrahydrofuran at the boil, and the mixture was heated at reflux temperature for 1.5 hours. After the reaction mixture has cooled to room temperature, 230 ml of water are added, the aqueous phase is separated off, the toluene phase is reextracted using 110 ml of water, and the combined aqueous phases are acidified at 15-20° C. using approximately 25 ml of concentrated hydrochloric acid. The product is filtered off with suction and dried. 20.2 g (93% of theory) of 3-(2-chloro-6-methoxyphenyl)-5-isopropyl-5-methyl-pyrrolidine-2,4-dione of m.p. 172-174° C. are obtained.

reactant | methyl N-(2-chloro-6-methoxyphenylacetyl)-2-amino-2,3-dimethyl-butyrate | 0.073 mol, 23.8 g | ClC1=C(C(=CC=C1)OC)CC(=O)NC(C(=O)OC)(C(C)C)C | C16H22ClNO4
reactant | potassium tert-butylate | 0.16 mol, 18.06 g | CC(C)(C)[O-].[K+]
reactant | water | 230 ml | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(2-chloro-6-methoxyphenyl)-5-isopropyl-5-methyl-pyrrolidine-2,4-dione | 20.2 g, 93% | ClC1=C(C(=CC=C1)OC)C1C(NC(C1=O)(C)C(C)C)=O | C15H18ClNO3
